data/mechanisms/records/IMS8-EQ8.48.json
{"mechanism_id": "IMS8-EQ8.48", "species": [{"species_id": "ring_opened_distonic_ion", "mapped_smiles": "[CH2:2]=[O+:1][CH2:5][CH2:4][CH2:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclopropane_neutral", "mapped_smiles": "[CH2:3]1[CH2:4][CH2:5]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "heteroalkene_radical_cation", "mapped_smiles": "[CH2:2]=[O+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ring_opened_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["cyclopropane_neutral", "heteroalkene_radical_cation"]}], "steps": [{"step_id": "step_alpha_heteroalkene", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [3, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "bond", "atom_maps": [3, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_heteroalkene", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_heteroalkene", "support_type": "textbook_proposed", "locator": {"page": 178, "equation": "8.48", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.5, "curator_note": "Upper branch off the ring-opened distonic ion, labelled 'alpha', giving the small heteroalkene radical cation CH2=Y+. (formaldehyde radical cation, m/z 30, for Y=O); the complementary neutral (C3H6) is NOT drawn on the page. Book draws 0 electron arcs for this branch (only the 'alpha'-labelled reaction arrow and the product ion CH2=Y+.). This is charge retention on the heteroatom fragment and, unlike the ethylene-loss branch (8.50), it is NOT a single radical-site alpha-cleavage of the drawn distonic ion (the radical and the C-O bond that must break are 1,3-related); semantics is therefore net_fragmentation. The 3 fishhooks encoded here are curator-supplied for electron balance and depict a plausible single-step route (intramolecular homolytic substitution: the tail radical closes onto the carbon bearing the O, expelling CH2=O+. and forming the C-C bond of the neutral). Cyclopropane is the curator-chosen closed-shell C3H6 neutral (1,3-ring closure of the two radical termini, no H-transfer needed); propene would require an undrawn H-shift."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 72.057, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_heteroalkene", "species_id": "heteroalkene_radical_cation", "step_id": "step_alpha_heteroalkene", "observed_mz": 30.01, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
